US07687620B2
5-acetyl-4,5,6,7,9,9a,10,11,12,12a-decahydrocyclopenta[c][1,4]diazepino[6,7,1-ij]quinoline
Dimethoxymethane (34.9 mL, 394 mmol) was dissolved in methylene chloride (800 mL) and cooled to 0° C. in a ice bath. To this solution, boron trifluoride etherate (18.3 mL, 144 mmol) was added and the reaction was stirred for 30 minutes. Subsequently, a solution of 4-Acetyl-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine (25 g, 131 mmol) in methylene chloride (500 mL) was added to the reaction through an addition funnel over several hours. During the course of this addition, cyclopentene (23.1 mL, 263 mmol) was added to the reaction. The reaction was allowed to warm to room temperature overnight. Additional portions of the dimethoxymethane, boron trifluoride etherate and cyclopentene were added as necessary to facilitate greater conversion. The reaction was neutralized with NaOH and extracted with methylene chloride and the organic layer was washed with saturated brine solution. After drying with MgSO4, the solvent was evaporated in vacuo and the product was purified by flash chromatography (silica gel, ethyl acetate:hexanes 55:45 with 1% triethylamine) to provide 7.4 grams of the title compound.

reactant | Dimethoxymethane | 394 mmol, 34.9 mL | COCOC | C3H8O2
reactant | boron trifluoride etherate | 144 mmol, 18.3 mL | B(F)(F)F.CCOCC
reactant | 4-Acetyl-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine | 131 mmol, 25 g | C(C)(=O)N1CCNC2=C(C1)C=CC=C2 | C11H14N2O
reactant | cyclopentene | 263 mmol, 23.1 mL | C1=CCCC1 | C5H8
reactant | NaOH | [OH-].[Na+]
solvent | methylene chloride | 800 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | 5-acetyl-4,5,6,7,9,9a,10,11,12,12a-decahydrocyclopenta[c][1,4]diazepino[6,7,1-ij]quinoline | 7.4 grams | C(C)(=O)N1CCN2CC3C(C4=CC=CC(=C24)C1)CCC3 | C17H22N2O
